US08003806B2
(a) Ethyl 3-[4-bromo-6-(trifluoromethyl)-1H-benzimidazol-1-yl]-3-phenyl-2-propenoate
To a solution of 4-bromo-6-trifluoromethylbenzimidazole (1.00 g, 3.77 mmol) in DMF (10 mL) was added potassium carbonate (520 mg, 3.77 mmol) and ethyl phenylpropiolate (690 μL, 4.15 mmol). The suspension was then warmed to 100° C. for 4 hours, cooled to room temperature, and was evaporated in vacuo. The residue was purified by flash column chromatography on silica gel, eluting with a mixture of dichloromethane and methanol (99:1), to afford the title compound as a mixture of geometric isomers (ca. 6:1 as determined by 1H NMR). 1H NMR: (CDCl3) of the mixture, 8.16 (s), 8.13 (s), 7.76 (br), 7.57-7.17 (m), 6.61 (s), 6.30 (s), 4.18 (q, J=7.32), 4.07 (q, J=7.32), 1.21 (t, J=7.32), 1.10 (t, J=7.32).

reactant | 4-bromo-6-trifluoromethylbenzimidazole | 3.77 mmol, 1.00 g | BrC1=CC(=CC=2N=CNC21)C(F)(F)F | C8H4BrF3N2
reactant | potassium carbonate | 3.77 mmol, 520 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl phenylpropiolate | 4.15 mmol, 690 μL | C1(=CC=CC=C1)C#CC(=O)OCC | C11H10O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Ethyl 3-[4-bromo-6-(trifluoromethyl)-1H-benzimidazol-1-yl]-3-phenyl-2-propenoate | BrC1=CC(=CC=2N(C=NC21)C(=CC(=O)OCC)C2=CC=CC=C2)C(F)(F)F | C19H14BrF3N2O2
